US07179830B2
b) 2-(2,6-Dichlorophenylamino)-4,6-dimethyl-1H-thieno[3,4-d]imidazole hydrochloride
0.664 g of methyl iodide was added to a solution of 0.27 g of N-(3-amino-2,5-dimethyl-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea in 30 ml of anhydrous ethanol and the mixture was boiled under reflux conditions for approx. 10 hours. After the solvent had been distilled off on a Rotavapor, the residue was admixed with water and extracted repeatedly with ethyl acetate. The combined organic phases were dried over sodium sulfate and the solvent was distilled off on a Rotavapor. The residue was then purified by column chromatography on silica gel using a mixture of 20 parts by volume of ethyl acetate, 10 parts by volume of n-heptane, 3 parts by volume of glacial acetic acid. After the solvent had been distilled off, the residue was dissolved in a little ethyl acetate, made strongly acidic using a hydrogen chloride gas-saturated diethyl ether solution, and the amorphous precipitate was fully crystallized by heating. M.p. 270–273° C.

reactant | methyl iodide | 0.664 g | CI | CH3I
reactant | N-(3-amino-2,5-dimethyl-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea | 0.27 g | NC1=C(SC(=C1NC(=S)NC1=C(C=CC=C1Cl)Cl)C)C | C13H13Cl2N3S2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(2,6-Dichlorophenylamino)-4,6-dimethyl-1H-thieno[3,4-d]imidazole hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC1=NC=2C(N1)=C(SC2C)C | InChI=1S/C13H11Cl2N3S.ClH/c1-6-10-11(7(2)19-6)17-13(16-10)18-12-8(14)4-3-5-9(12)15;/h3-5H,1-2H3,(H2,16,17,18);1H
